### PR TITLE
Add Erdős Problem 147 (the Erdős–Simonovits conjecture on bipartite Turán numbers), link the formal disproof

### LINKED ISSUE #6183: Erdős Problem 147
### What is the Erdős problem?

https://www.erdosproblems.com/147

If $H$ is bipartite with minimum degree $r$ then there exists $\epsilon=\epsilon(H)>0$ such that $\mathrm{ex}(n;H) \gg n^{2-\frac{1}{r-1}+\epsilon}$.

Status: disproved (Lean). The Erdős–Simonovits $500 conjecture, disproved by Janzer (even $r \geq 4$, and $r = 3$); a formal disproof exists in plby/lean-proofs (`Erdos147.not_erdos_147`, Codex and GPT-5.6 Sol, via the graph $C_{12}[2]$).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6183.

### What changed
Adds `FormalConjectures/ErdosProblems/147.lean`:
- `erdos_147` (`research solved`, `answer(False)`): the Erdős–Simonovits $500 conjecture — for every bipartite `H` with minimum degree `r ≥ 2` there is `ε > 0` with `ex(n; H) ≫ n^{2 − 1/(r−1) + ε}`. Disproved by Janzer [Ja23], [Ja23b]; linked to plby/lean-proofs `Erdos147.not_erdos_147` (Codex and GPT-5.6 Sol; 6 Mathlib-only files, counterexample `C₁₂[2]` with `ex(n; H) ≪ n^{139/84}`). The restriction `r ≥ 2` avoids the meaningless exponent at `r = 1`.
- `erdos_147.variants.janzer_even` and `erdos_147.variants.cubic` (`research solved`): Janzer's constructions for even `r ≥ 4` and for `r = 3`.
- `erdos_147.variants.janzer_conjecture` (`research open`): Janzer's conjecture that `2 − 2/r` is the right exponent for all `r ≥ 3`.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos147.not_erdos_147` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (it applies the statement to plby's counterexample, whose minimum degree is `4 ≥ 2`, and reuses their upper bound on its extremal number):

<details>
<summary>Bridge</summary>

```lean
open Filter Asymptotics

theorem erdos_147_bridge : type_of% Erdos147.erdos_147 := by
  show False ↔ _
  simp only [false_iff]
  intro h
  have hmin : Erdos147Plby.counterexampleGraph.minDegree = 4 :=
    Erdos147Plby.counterexampleGraph_minDegree
  obtain ⟨ε, hε, hlower⟩ := h (Fin 12 × Fin 2) Erdos147Plby.counterexampleGraph
    Erdos147Plby.counterexampleGraph_isBipartite (by rw [hmin]; norm_num)
  rw [hmin] at hlower
  have hlt : Erdos147Plby.witnessUpperExponent < 2 - 1 / ((4 : ℝ) - 1) + ε := by
    dsimp [Erdos147Plby.witnessUpperExponent]
    norm_num at hε ⊢
    linarith
  refine Erdos147Plby.not_polynomialGrowth_isBigO_of_lt hlt ?_
  exact hlower.trans Erdos147Plby.counterexampleGraph_extremal_upper
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«147»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/147.lean [hunk 1]
```diff
@@ -0,0 +1,112 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/147.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
